US04018895
A solution containing 442 g. of N,N-dimethyl 3-phenyl-3-hydroxypropylamine in 5 l. of chloroform was saturated with dry gaseous hydrogen chloride. 400 ml. of thionyl chloride were then added to the chloroform solution at a rate sufficient to maintain reflux. The solution was refluxed an additional 5 hours. Evaporation of the chloroform and other volatile constituents in vacuo yielded N,N-dimethyl 3-phenyl-3-chloropropylamine hydrochloride which was collected by filtration, and the filter cake washed twice with 1500 ml. portions of acetone. The washed crystals weighed about 500 g. and melted at 181°-183° C. with decomposition. An additional 30 g. of compound were obtained from the acetone wash by standard crystallization procedures. The structure of the above compound was verified by NMR and titration.

reactant | N,N-dimethyl 3-phenyl-3-hydroxypropylamine | CN(C)CCC(O)C1=CC=CC=C1 | C11H17NO
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N,N-dimethyl 3-phenyl-3-chloropropylamine hydrochloride | Cl.CN(C)CCC(Cl)C1=CC=CC=C1 | InChI=1S/C11H16ClN.ClH/c1-13(2)9-8-11(12)10-6-4-3-5-7-10;/h3-7,11H,8-9H2,1-2H3;1H
